US04745121
Ethyl 4-amino-1-n-pentyl-1H-pyrazolo[3,4-b]pyridine-5-hydroxamate (Formula I, Ra=n-pentyl, Rb=H, Rc=OEt, Rd=H)
To a stirred solution of 1.1 g of 4-amino-1-n-pentyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid and 0.56 g of triethylamine in 35 ml of MeOH was added a solution of 1.43 g of diphenylcarbamylpyridinium chloride in 5.6 ml of MeOH. After stirring for 20 min., the reaction mixture was cooled in an ice bath and added to a cold stirred solution of ethoxyamine which was prepared by adding 3.32 ml of a 25% methanolic sodium methoxide solution to a solution of 1.42 g of ethoxyamine hydrochloride in 10 ml of MeOH. The resulting mixture was stirred at room temperature for 1.5 hr. and then concentrated. The residue was diluted with 60 ml of water and the resulting mixture extracted with ether. The combined extracts were dried (MgSO4), filtered, and concentrated to give 1.98 g of an amber oil which was chromatographed over silica gel using ether as the eluant. The fractions containing the product were combined and concentrated to leave 0.92 g of a white foam. The foam was induced to crystallize by dissolving it in hot toluene containing a small amount of chloroform and cooling, whereupon crystals precipitated. These were collected, washed with cold toluene and hexane, and air-dried to give 0.69 g (53%) of the title compound as white crystals, m.p. 142.3°-144.2°.

reactant | 4-amino-1-n-pentyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 1.1 g | NC1=C2C(=NC=C1C(=O)O)N(N=C2)CCCCC | C12H16N4O2
reactant | diphenylcarbamylpyridinium chloride | 1.43 g | [Cl-].C1(=CC=CC=C1)N(C(=O)[N+]1=CC=CC=C1)C1=CC=CC=C1
reactant | ethoxyamine | C(C)ON | C2H7NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethoxyamine hydrochloride | 1.42 g | Cl.C(C)ON
solvent | MeOH | 35 ml | CO | CH4O
solvent | MeOH | 5.6 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
solvent | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
product | Ethyl 4-amino-1-n-pentyl-1H-pyrazolo[3,4-b]pyridine-5-hydroxamate | 1.98 g | NC1=C2C(=NC=C1C(=O)NOCC)N(N=C2)CCCCC | C14H21N5O2
